US06225318B1
(1H-Indol-5-yl)-[6-(2-pyridin-2-yl-vinyl)-quinazolin-4-yl]-amine
The title compound was prepared according to the method in Example 6 using (1H-Indol-5-yl)-(6-iodo-quinazolin-4-yl)-amine (200 mg, 0.52 mmol) and 2-vinylpyridine (65 mg, 67 uL, 0.62 mmol).

reactant | (1H-Indol-5-yl)-(6-iodo-quinazolin-4-yl)-amine | 0.52 mmol, 200 mg | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)I | C16H11IN4
reactant | 2-vinylpyridine | 0.62 mmol, 67 uL, 65 mg | C(=C)C1=NC=CC=C1 | C7H7N
product | (1H-Indol-5-yl)-[6-(2-pyridin-2-yl-vinyl)-quinazolin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C=CC1=NC=CC=C1 | C23H17N5
